US06235731B1
2-Amino-6-fluoropyridine (12 g) was completely dissolved in 120 mL of distilled water at 60° C. To the solution was added 35 mL (2 equivalents) of 40% chloroacetaldehyde. The mixture was stirred for 3 hours at 60° C. The reaction mixture was gradually cooled to room temperature, to which were added a 1N—HCl aqueous solution (50 mL) and ethyl acetate (150 mL). The ethyl acetate solution was subjected to extraction with a 1N—HCl aqueous solution (100 mL). The extract was mixed with the aqueous solution. To this aqueous solution was added NaHCO3 for neutralization (pH 0.35-7.30). To the neutralized aqueous solution was added a mixture of ethyl acetate and THF (4:1) (150 mL×3) to extract the product. The extract solutions were combined and dried over anhydrous magnesium sulfate, which was concentrated under reduced pressure to afford 5-fluoroimidazo[1,2-a]pyridine as a black liquid product (9.5 g, yield 65%).

reactant | 2-Amino-6-fluoropyridine | 12 g | NC1=NC(=CC=C1)F | C5H5FN2
reactant | chloroacetaldehyde | 35 mL, 2 equivalents | ClCC=O | C2H3ClO
reactant | HCl | 50 mL | Cl | ClH
reactant | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 120 mL | O | H2O
product | 5-fluoroimidazo[1,2-a]pyridine | FC1=CC=CC=2N1C=CN2 | C7H5FN2
